US03998834
To a stirred and gently refluxing solution of 43 parts of ethyl 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylate in 288 parts of dry benzene is added dropwise a solution of 33.9 parts of sodium dihydro-bis(2-methoxyethoxy)aluminate 70% in 72 parts of dry benzene without heating. Upon completion, stirring is continued for 3 hours at reflux. The reaction mixture is allowed to cool to room temperature overnight and poured onto 1000 parts of ice-water. The resulting emulsion is decomposed by the addition of a concentrated sodium hydroxide solution. The organic layer is separated and filtered over hyflo. The filter-cake is washed thoroughly with benzene. The filtrate is dried, filtered and evaporated. The residue is crystallized from 385 parts of 2,2'-oxybispropane. The crude solid product is filtered off and recrystallized from 2-propanol, yielding 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinemethanol; mp. 96.7° C.

reactant | ethyl 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinecarboxylate | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)C(=O)OCC | C22H28N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(phenylamino)-1-(2-phenylethyl)-4-piperidinemethanol | C1(=CC=CC=C1)NC1(CCN(CC1)CCC1=CC=CC=C1)CO | C20H26N2O
